US07371751B2
2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-5-carboxylic acid diethylamide
According to the procedure described fort he synthesis of Example 125 further derivatives have been synthesised from 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-5-carboxylic acid and various commercially available amines and comprise Examples 126-Example 135 below. In cases of Example 135 additionally 2 eq. NEt3 were added to the reaction mixture as the amine hydochloride was used as starting material.

reactant | 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-5-carboxylic acid | ClC1=C(C(=O)N(C=2SC(=CN2)C(=O)O)C2=CC(=C(C=C2)OC)OC)C=CC(=C1)Cl | C19H14Cl2N2O5S
solvent | NEt3 | CCN(CC)CC | C6H15N
product | 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-5-carboxylic acid diethylamide | C(C)N(C(=O)C1=CN=C(S1)N(C1=CC(=C(C=C1)OC)OC)C(C1=C(C=C(C=C1)Cl)Cl)=O)CC | C23H23Cl2N3O4S
